US09169246B2
Step 6.3. N-(5-chloro-4-fluoro-2-iodophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carboxamide
Potassium t-butoxide (12.52 g, 111.6 mmol) is added at room temperature to a solution of 5-chloro-4-fluoro-2-iodoaniline (5.0 g, 22.3 mmol) in 250 mL of anhydrous THF under nitrogen. After stirring for 15 minutes, a solution of 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carboxylic acid fluoride (5.67 g, 24.6 mmol) in 30 mL of anhydrous THF is added dropwise. The reaction mixture is stirred for 4 hours at room temperature and then poured into saturated aqueous NaHCO3 solution and extracted with EtOAc. The organic phase is washed with saturated aqueous NaCl solution, dried over Na2SO4 and concentrated to dryness. After purification by flash chromatography on silica (cyclohexene/EtOAc: 95/5 to 80/20), a red solid is obtained, which is purified by flash chromatography on amine phase (DCM) to give 2.84 g of a white solid (yield: 31%).

reactant | Potassium t-butoxide | 111.6 mmol, 12.52 g | CC(C)([O-])C.[K+]
reactant | 5-chloro-4-fluoro-2-iodoaniline | 22.3 mmol, 5.0 g | ClC=1C(=CC(=C(N)C1)I)F | C6H4ClFIN
reactant | 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carboxylic acid fluoride | 24.6 mmol, 5.67 g | O1C(CCCC1)N1N=CC(=C1)C(=O)F | C9H11FN2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(5-chloro-4-fluoro-2-iodophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carboxamide | 2.84 g, yield: 31% | ClC=1C(=CC(=C(C1)NC(=O)C=1C=NN(C1)C1OCCCC1)I)F | C15H14ClFIN3O2
